US06069148
1.97 kg of potassium tert-butoxide, 2.26 kg of methyl cyclopentanecarboxylate, 1.66 kg of p-trifluoromethylacetophenone and 36 g of 18-crown-6 ether were refluxed in 18 litres of tetrahydrofuran for 4 hours. Quenching of the reaction was carried out using 16 litres of 10% strength hydrochloric acid at room temperature. The aqueous phase was extracted with ethyl acetate and the combined organic phases were washed with saturated sodium chloride solution. After distilling off the solvent, the residue was distilled in an oil-pump vacuum at 1.5 mbar. 1.664 kg of 1-cyclopentyl-3-(4-trifluoromethylphenyl)propane-1,3-dione resulted as an oil, which crystallized completely on allowing to stand.

reactant | potassium tert-butoxide | 1.97 kg | CC(C)([O-])C.[K+]
reactant | methyl cyclopentanecarboxylate | 2.26 kg | C1(CCCC1)C(=O)OC | C7H12O2
reactant | p-trifluoromethylacetophenone | 1.66 kg | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
solvent | tetrahydrofuran | 18 litres | O1CCCC1 | C4H8O
catalyst | 18-crown-6 ether | 36 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 1-cyclopentyl-3-(4-trifluoromethylphenyl)propane-1,3-dione | 1.664 kg | C1(CCCC1)C(CC(=O)C1=CC=C(C=C1)C(F)(F)F)=O | C15H15F3O2
